US07576115B2
Synthesis of 4-{[(2-{1-[5-(4-chlorophenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonothioyl]amino}-2-chlorobenzoic acid
From 2-(4-chlorophenyl)-3-hydroxy-4-methylcarbonylthiophene (25.2 mg, 0.1 mmol) and 4-hydrazinocabonothioylamino-2-chlorobenzoic acid (24.5 mg, 0.1 mmol), the desired product was obtained in the same manner as in Synthetic Example 50 as a pale yellow solid (41.9 mg, yield 88%).

reactant | 2-(4-chlorophenyl)-3-hydroxy-4-methylcarbonylthiophene | 0.1 mmol, 25.2 mg | ClC1=CC=C(C=C1)C=1SC=C(C1O)C(=O)C | C12H9ClO2S
reactant | 4-hydrazinocabonothioylamino-2-chlorobenzoic acid | 0.1 mmol, 24.5 mg | N(N)C(=S)NC1=CC(=C(C(=O)O)C=C1)Cl | C8H8ClN3O2S
product | 4-{[(2-{1-[5-(4-chlorophenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonothioyl]amino}-2-chlorobenzoic acid | ClC1=CC=C(C=C1)C1=C(C(=CS1)C(C)=NNC(=S)NC1=CC(=C(C(=O)O)C=C1)Cl)O | C20H15Cl2N3O3S2
